US04822805
To a solution of 1-hydroxy-2-(2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.5 g) in N,N-dimethylformamide (10 ml) was added phosphorus trichloride (0.31 ml) under ice-cooling. The mixture was stirred for 2 hours at 5° to 10° C. The mixture was poured into water (100 ml), and neutralized with aqueous sodium bicarbonate. The precipitate was collected, washed with water, and dried to give 2-(2-methoxyphenyl)-5-methyl-4-(3-pyridyl)imidazole (0.31 g).

reactant | 1-hydroxy-2-(2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.5 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=CC=C1)OC | C16H15N3O2
reactant | phosphorus trichloride | 0.31 ml | P(Cl)(Cl)Cl | Cl3P
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2-methoxyphenyl)-5-methyl-4-(3-pyridyl)imidazole | 0.31 g | COC1=C(C=CC=C1)C=1NC(=C(N1)C=1C=NC=CC1)C | C16H15N3O
